US05051509
A suspension of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid (1.48 g), 3-aminomethylpiperidine (1.14 g) and triethylamine (1.5 g) in acetonitrile (20 ml) and N,N-dimethylformamide (10 ml) was refluxed overnight. Concentration of the reaction mixture followed by purification by silica gel column chromatography (chloroform:methanol:ammonium hydroxide=15:5:1) gave 7-(3-aminomethylpiperidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid, which was recrystallized from isopropanol-water to afford yellow prisms. m.p. 192°-193° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 1.48 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | 3-aminomethylpiperidine | 1.14 g | NCC1CNCCC1 | C6H14N2
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-(3-aminomethylpiperidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | NCC1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C20H24FN3O4
